US04762927
Synthesis of N-methyl-N-(2-piperidinoethyl)amine
A solution of 8.0 g of N-(2-chloroethyl)piperidine hydrochloride and 0.5 g of sodium iodide in 60 ml of methanol which contained 40% of methylamine was reacted at 70° C. in a sealed tube for 20 hours. After allowing the reaction mixture to cool down, the reaction mixture was concentrated under reduced pressure. The residue was added with ether, followed by a further addition of 10 g of ground sodium hydroxide. The resulting mixture was stirred for 2 hours. The insoluble material was filtered off and the filtrate was concentrated under the atmospheric pressure. The residue was distilled under reduced pressure to give 4.5 g of a fraction at 80° C./18 Torr (yield: 73%).

reactant | N-(2-chloroethyl)piperidine hydrochloride | 8.0 g | Cl.ClCCN1CCCCC1
reactant | sodium iodide | 0.5 g | [I-].[Na+]
reactant | methylamine | CN | CH5N
solvent | methanol | 60 ml | CO | CH4O
product | N-methyl-N-(2-piperidinoethyl)amine | yield: 73% | CNCCN1CCCCC1 | C8H18N2
